US04409214
To a solution of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (1.9 g) and trimethylsilylacetamide (4.6 g) in ethyl acetate (30 ml) was added at -30° C. a solution of the activated acid, which was prepared by stirring a mixture of 2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer) (1.1 g), phosphorus oxychloride (0.81 g), N,N-dimethylformamide (0.39 g) and ethyl acetate (20 ml) for half an hour under ice-cooling, and the mixture was stirred at -30° to -10° C. for an hour. After addition of ethyl acetate (100 ml) and water (50 ml), the organic layer was separated out, washed with a saturated aqueous solution of sodium bicarbonate and an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and then evaporated to dryness to give benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (2.4 g).

reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 1.9 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | trimethylsilylacetamide | 4.6 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetic acid | 1.1 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC | C7H7N3O4S
reactant | phosphorus oxychloride | 0.81 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 0.39 g | CN(C=O)C | C3H7NO
product | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 2.4 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C29H25N5O6S2
